US08629282B2
A mixture of (3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)methanol (2.1 g, 8.64 mmol), TEMPO (0.094 g, 0.604 mmol), and a sodium phosphate buffer (0.67M) (32.2 mL, 21.59 mmol) in acetonitrile (30 mL) was heated to 35° C. A fresh solution of sodium phosphate buffer (40 mL, pH ˜6.5) consisting of a 1:1 solution of NaH2PO4 (20 mL, 0.67M) and Na2HPO4 (20 mL, 0.67M) was prepared and used. Solutions of sodium chlorite (3.91 g, 34.5 mmol) in water (4.5 mL) and bleach (4.3 mL, 6% wt.) were added simultaneously over 40 min. The reaction was monitored by HPLC, and after 2 h, ˜30% of the starting material remained. After 6 h, 10% remained. Additional bleach (100 μL) was added, and the reaction mixture was left at room temperature overnight. Additional bleach (100 μL) was added. The resulting mixture was allowed to stir at 35° C. for additional 2 h. HPLC indicated complete conversion. The reaction was quenched by the slow addition of a solution of sodium sulfite (2.07 mL, 43.2 mmol) in water (90 mL) at 0° C., resulting in the disappearance of the brown reaction color. The solvent was removed under reduced pressure, and the remaining aqueous residue was extracted with ethyl acetate (3×40 mL). The organic layers were combined, washed with water (8 mL), washed with brine (8 mL), and dried over anhydrous sodium sulfate. Concentration under reduced pressure afforded 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylic acid (2.2 g, 8.55 mmol, 99% yield) as a pale yellow solid.

reactant | (3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)methanol | 8.64 mmol, 2.1 g | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)CO | C11H8F3NO2
reactant | sodium phosphate | 21.59 mmol, 0.67M, 32.2 mL | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | sodium phosphate | 40 mL, pH ˜6.5 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | sodium chlorite | 34.5 mmol, 3.91 g | Cl(=O)[O-].[Na+]
reactant | sodium sulfite | 43.2 mmol, 2.07 mL | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 4.5 mL | O | H2O
solvent | water | 90 mL | O | H2O
catalyst | TEMPO | 0.604 mmol, 0.094 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylic acid | 8.55 mmol, 2.2 g, 99% yield | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C(=O)O | C11H6F3NO3
